US06297277B1
Synthesis of Mu-Phe-HPhe-CH2-O-CH2CH3
In a 100 ml round bottom flask equipped with an argon line was placed Nu-Phe-HPhe-CH2-Br (300 mg, 0.582 mmol), potassium fluoride (150 mg, 2.4 mmol), and potassium carbonate (150 mg, 1.2 mmol), and 8 ml of 200 proof ethanol. The reaction was stirred 3 hours, filtered and the solvents were removed under vacuum and the residue chromatographed on a short silica gel column (CHCl3:MLEOH 95:5) and then recrystallized from ether.

reactant | Phe-HPhe-CH2-Br | 0.582 mmol, 300 mg | N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CCC1=CC=CC=C1)C(=O)CBr | C20H23BrN2O2
reactant | potassium fluoride | 2.4 mmol, 150 mg | [F-].[K+]
reactant | potassium carbonate | 1.2 mmol, 150 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethanol | C(C)O | C2H6O
product | Phe-HPhe-CH2-O-CH2CH3 | N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CCC1=CC=CC=C1)C(=O)COCC | C22H28N2O3
